US04468508
Glycidyl ether of novolak type substituted phenolic resin was produced from the novolak type phenolic resin synthesized in Example 1, using a 1-liter flask equipped with a thermometer, dropping funnel, stirrer, and separating tube with cooler. In the flask were placed 1.0 mol (as phenolic hydroxyl group) of novolak type phenolic resin, 7.0 mols of epichlorohydrin, and 0.4 times (by weight) as much dioxane as epichlorohydrin. Then, 48% NaOH (1.0 mol as NaOH) was added dropwise over 4 hours. During this time, epichlorohydrin, dioxane, and water were azeotropically boiled at 58° to 60° C. under reduced pressure (150 mmHg) and cooled in the separating tube, whereby the organic layer containing major amounts of epichlorohydrin and dioxane were returned to the reaction system whereas the water layer was discharged from the reaction system. After the reaction was completed, epichlorohydrin and dioxane were distilled away, and the reaction product was dissolved in methyl isobutyl ketone. Then the salt formed as a by-product was filtered out, and then methyl isobutyl ketone was distilled away. Thus, there was obtained a glycidyl ether of the novolak type substituted phenolic resin. This product was found to contain 0.029% (290 ppm) of hydrolyzable chlorine and to have an epoxy equivalent of 203, a softening point of 62° C., and a density of 1.19 g/cm3.

reactant | epichlorohydrin | 7.0 mols | C(Cl)C1CO1 | C3H5ClO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | NaOH | 1.0 mol | [OH-].[Na+]
solvent | water | O | H2O
product | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
